Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
L shoulder pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS: Patient is a ___ with history of 
CAD s/p CABG x2 ___, ___ and dyslipidemia who presents to 
___ iso of several days of L-shoulder discomfort/pleuritic 
chest pain associated with mild fatigue.  
 Patient returned from a regular trip to ___ ~10days ago (he 
regularly travels long distances for work). Within the past four 
days, patient began to experience mild, ___ discomfort 'deep 
within' his left shoulder. He is unable to qualify the pain, 
though says that it is neither sharp nor dull. No radiation or 
associated SOB/diaphoresis. He also describes some anterior 
left-sided chest pain with inspiration. There is no exertional 
exacerbation. The pain seems to come and go at random. Patient 
originally attributed his symptoms to exercise/over-use (he is 
an avid athlete, often jogging/swimming nearly everyday of the 
week). No recent trauma. Given his history of CAD as well as 
persistent symptoms and also generalized fatigue, patient 
decided to present to ___ Urgent Care. He was given 
ASA 81x4 and told to present to the ___ for further 
evaluation.  
 In the ED initial vitals were: 98.0 72 130/64 18 97% RA  
 EKG: NSR 69bpm, normal axis, isolated Qwave in III, TWI in III, 
submm STE laterally  

 
Past Medical History:
-CAD, s/p CABG ___ in ___: LIMA to LAD, RIMA to 
posterior segment of marginal of circ, Radial to posterior 
descending of RCA
-Hyperlipidemia

 
Social History:
___
Family History:
FAMILY HISTORY:  
 Grandfathers with CAD/MI  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VS: 97.8 124/74 67 18 95 RA  
 GENERAL: Pleasant male in NAD, breathing comfortably on RA  
 HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma.  
 NECK: No JVP elevation.  
 CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
 LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles, wheezes or rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: WWP. No c/c/e.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM
=========================
VS: 98.3 PO 147 / 75 L Lying 75 18 95 RA 
GENERAL: no acute distress, pleasant and conversant  
HEENT: PERRL, EOMI, MMM  
NECK: No JVP elevation, supple, full ROM 
CARDIAC: regular rate and rhythm, no rubs murmurs or gallops.  
LUNGS: clear to auscultation bilaterally, no wheezes or crackles 

ABDOMEN: bowel sounds present, soft, NTND. No organomegaly.  
EXTREMITIES: no cyanosis, clubbing, edema  
SKIN: scattered psoriatic plaques on extensor surface of legs up
to knees bilaterally.  
PULSES: 2+ distal pulses lower and upper extremities bilaterally 

 
Pertinent Results:
ADMISSION LABS
================
___ 10:12PM BLOOD WBC-9.8 RBC-5.23 Hgb-15.0 Hct-44.0 MCV-84 
MCH-28.7 MCHC-34.1 RDW-12.7 RDWSD-38.5 Plt ___
___ 10:12PM BLOOD Neuts-70.8 Lymphs-17.1* Monos-9.2 Eos-2.6 
Baso-0.1 Im ___ AbsNeut-6.95* AbsLymp-1.68 AbsMono-0.90* 
AbsEos-0.26 AbsBaso-0.01
___ 10:12PM BLOOD Plt ___
___ 01:25AM BLOOD ___ PTT-29.1 ___
___ 10:12PM BLOOD Glucose-116* UreaN-12 Creat-0.8 Na-141 
K-4.5 Cl-101 HCO3-21* AnGap-19*
___ 10:12PM BLOOD ALT-63* AST-49* CK(CPK)-128 AlkPhos-125 
TotBili-0.4
___ 10:12PM BLOOD Lipase-28
___ 10:12PM BLOOD cTropnT-0.13*
___ 10:12PM BLOOD CK-MB-3 proBNP-27
___ 10:12PM BLOOD Albumin-4.6
___ 10:37PM BLOOD Lactate-1.6

STUGIES/IMAGING
==================

EXERCISE STRESS
INTERPRETATION: This ___ yo man with h/o CAD, s/p CABG ___, was 
referred to the lab from the inpatient floor for evaluation of 
chest 
discomfort with elevated troponins. The patient exercised for 
9.5 
minutes of ___ protocol and was stopped for fatigue. The 
estimated 
peak MET capacity was 10.6, which represents an average exercise 

tolerance for his age. There were no reports of chest, back, 
neck, or 
arm discomforts during the study. There were no significant ST 
changes 
noted during exercise or recovery. Rhythm was sinus with rare 
isolated 
VPBs and two isolated APBs. There was a mildly blunted heart 
rate 
response to exercise in the absence of beta blockade. Mild 
resting 
diastolic hypertension with an appropriate blood pressure 
response 
during exercise and recovery. 
IMPRESSION: No anginal type symptoms or ischemic EKG changes at 
a high 
cardiac demand and average functional capacity. Echo report sent 

separately. 

EXERCISE ECHO
The patient exercised for 9 minutes 30 seconds according to a 
___ treadmill protocol ___ METS) reaching a peak heart rate 
of 146 bpm and a peak blood pressure of 178/80 mmHg. The test 
was stopped because of fatigue. This level of exercise 
represents an average exercise tolerance for age and gender. In 
response to stress, the ECG showed no ST-T wave changes (see 
exercise report for details). with normal blood pressure and 
heart rate responses to stress. 
 .
 Resting images were acquired at a heart rate of 76 bpm and a 
blood pressure of 136/90 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Right 
ventricular free wall motion is normal. There is no pericardial 
effusion. Doppler demonstrated mild mitral regurgitation with no 
aortic stenosis, aortic regurgitation or significant resting 
LVOT gradient. .

 Echo images were acquired within 36 seconds after peak stress 
at heart rates of 138-118 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments. There was 
augmentation of right ventricular free wall motion. 

 IMPRESSION: Average functional exercise capacity for age and 
gender. No ECG or 2D echocardiographic evidence of inducible 
ischemia to achieved workload. Normal hemodynamic response to 
exercise. Mild mitral regurgitation at rest. 

RUQ US
1.  Normal liver parenchyma. 
2.  Echogenic hepatic lesion, consistent with hemangioma. 
3.  Mild splenomegaly. 

DISCHARGE LABS
================

___ 04:35AM BLOOD WBC-8.1 RBC-4.93 Hgb-14.4 Hct-41.9 MCV-85 
MCH-29.2 MCHC-34.4 RDW-13.0 RDWSD-39.9 Plt ___
___ 04:35AM BLOOD Plt ___
___ 04:35AM BLOOD ___ PTT-42.7* ___
___ 04:35AM BLOOD Glucose-92 UreaN-12 Creat-0.8 Na-143 
K-4.3 Cl-103 HCO3-25 AnGap-15
___ 03:05PM BLOOD cTropnT-0.05*
___ 03:16AM BLOOD CK-MB-3 cTropnT-0.10*
___ 04:35AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.0 Cholest-184
___ 03:16AM BLOOD Iron-44*
___ 03:16AM BLOOD calTIBC-330 Ferritn-230 TRF-254
___ 04:35AM BLOOD %HbA1c-5.0 eAG-97
___ 04:35AM BLOOD Triglyc-105 HDL-45 CHOL/HD-4.1 
LDLcalc-118
___ 03:16AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 03:16AM BLOOD HCV Ab-NEG
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a history of CAD s/p CABG 
x2 ___, ___ and dyslipidemia who presented with several 
days of low-grade nonspecific L-shoulder discomfort and one hour 
of pleuritic chest pain associated with mild fatigue, found to 
have elevated troponin to 0.13. Problems addressed during this 
hospitalization include the following:

# Chest pain 
# Troponinemia:
Concern for ACS/ischemia given history of severe CAD s/p CABG,
TIMI score 4. Troponinemia improved during admission (0.13 10PM 
--> 0.1 3AM --> 0.05 3PM). ___ be residual elevation from missed 
MI 4 days ago, when pt had isolated hour of pleuritic chest pain 
which has since resolved. EKG on admission, although without a 
baseline for comparison, was not concerning. Left shoulder pain 
may be musculoskeletal in the setting of increased exercise 
regimen over the last week. Despite patient's frequent airplane 
travel history, and recent trip to ___ ~10 days ago, concern 
for PE was low due to Well's and PERC scores of 0. Exercise 
stress test with echo was without evidence of ischemia. Heparin 
gtt was given for <24 h. Patient remained hemodynamically stable 
throughout admission, with continued low grade left shoulder 
pain. 

 # Transaminitis: elevated liver enzymes (AST 49, ALT 63) Likely 
fatty liver disease given obesity and history of dyslipidemia. 
Hepatitis serologies and iron studies were normal. RUQ US was 
also normal.

 # Dyslipidemia: lipid panel and HbA1C were normal, continued 
home rosuvastatin.

 # TRANSITIONAL ISSUES:
- Please see medication list for any additions or changes to 
medications.
- Set up PCP and cardiologist providers in ___, 
current physicians are all located in ___.
- Consider monitoring of LFTs and concern for fatty liver 
disease in outpatient setting.
 # CODE STATUS: Full (confirmed) 
 # CONTACT: ___ (WIFE) ___ 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Rosuvastatin Calcium 20 mg PO QPM 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Rosuvastatin Calcium 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
Missed myocardial infarction

SECONDARY
Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at the ___ 
___. You came to the hospital because you developed 
pain in your chest when breathing, and also pain in your left 
shoulder. You were concerned that these symptoms were related to 
your heart function.

While you were in the hospital, we checked the function of your 
heart with blood tests, EKGs, and an exercise stress test. Some 
levels heart enzymes in your blood were elevated when you came 
to the hospital, but the levels improved during your admission. 
The results of all other tests we performed to evaluate your 
heart were normal. We believe that your heart is healthy and you 
are able to safely return home.

We also found that your liver enzymes slightly elevated when you 
came to the hospital. We performed blood tests and an ultrasound 
of your liver to evaluate this. These tests were all normal. We 
believe these changes in your liver are related to your high 
cholesterol levels. You should follow up your liver function 
with your primary care physician.

Please be sure to follow up with your cardiologist and primary 
care physician and to take all of your home medications.

We wish you all the best!
-Your ___ care team
 
Followup Instructions:
___